US05686459
4.B)f) A mixture of L-proline (20 mmol), 4-cyano-benzaldehyde (20 mmol) and N-benzylmaleimide (20 mmol) in DMF (20 ml) was heated to 80° C. for 5 hours. The solvent was removed in a high vacuum and the residue was separated chromatographically over silica gel (eluent hexane:ethyl acetate=1:1+1% triethylamine). (3aRS,4SR,8aRS,8bSR)-4-(2-Benzyl-1,3-dioxo-decahydro-pyrrolo[3,4-a]pyrrolizin-4-yl)-benzonitrile was isolated in 32% yield as colourless crystals. M.p.: 191°-193° C. (methanol). EI-MS: 371 ([M]+, 7); 184 (100); 156 (11); 91 (12)

reactant | L-proline | 20 mmol | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 4-cyano-benzaldehyde | 20 mmol | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | N-benzylmaleimide | 20 mmol | C(C1=CC=CC=C1)N1C(C=CC1=O)=O | C11H9NO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | (3aRS,4SR,8aRS,8bSR)-4-(2-Benzyl-1,3-dioxo-decahydro-pyrrolo[3,4-a]pyrrolizin-4-yl)-benzonitrile | 32% yield | C(C1=CC=CC=C1)N1C(C2C(C(N3CCCC23)C2=CC=C(C#N)C=C2)C1=O)=O | C23H21N3O2
